US08466186B2
(b) tert-Butyl 5-cyano-2-trifluoromethyl-phenylcarbamate
A mixture of 3-amino-4-trifluoromethyl-benzonitrile (10.0 g; 53.7 mmol), DCM (100 mL) and TEA (8.2 mL; 59 mmol) was treated dropwise with a solution of Boc2O (12.9 g; 59.1 mmol) in DCM (50 mL) at 0° C. and stirred overnight. Another portion of Boc2O in DCM and DMAP (656 mg; 5.37 mmol) was added and the mixture was stirred for another 12 h at rt. The mixture was washed with water and brine, dried over Na2SO4, filtered, concentrated and purified by column chromatography.

reactant | 3-amino-4-trifluoromethyl-benzonitrile | 53.7 mmol, 10.0 g | NC=1C=C(C#N)C=CC1C(F)(F)F | C8H5F3N2
reactant | Boc2O | 59.1 mmol, 12.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.37 mmol, 656 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 5-cyano-2-trifluoromethyl-phenylcarbamate | C(#N)C=1C=CC(=C(C1)NC(OC(C)(C)C)=O)C(F)(F)F | C13H13F3N2O2
